US09119868B2
Step 2: 6-(N-(3-Chloro-4-hydroxyphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 6-(N-(4-(benzyloxy)-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.300 g, 0.485 mmol) in anhydrous DCM (12 mL) was cooled in an ice water bath and treated with 1M BCl3/DCM (2.00 mL, 2.00 mmol). After stirring in the ice bath for 10 minutes the solution was allowed to warm to RT. This solution was then combined with the solution from an analogous 50 mg scale reaction and poured into 50 mL of stirred ice water. The mixture was diluted with 50 mL of EtOAc, stirred vigorously for several minutes and the phases separated. The EtOAc solution was washed with water (2×), brine (1×), dried over sodium sulfate and concentrated to dryness at reduced pressure. The crude material was subjected to flash chromatography (silica gel, gradient from DCM to 1:1 DCM/EtOAc) followed by recrystallization from hexane/EtOAc to afford the title compound (0.110 g, 37%) as a white powder. Impure fractions from the above chromatography were combined, concentrated, and subjected to RP-HPLC purification (C18, MeCN/water/0.1% formic acid) to afford an additional portion of the title compound (0.107 g, 36%) for a total yield of 73%. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.45 (s, 1H) 8.40-8.48 (m, 1H) 8.18 (s, 1H) 7.90-8.01 (m, 2H) 7.61 (d, J=2.6 Hz, 1H) 7.34-7.45 (m, 3H) 7.14 (s, 1H) 6.96 (d, J=8.8 Hz, 1H) 3.30 (s, 3H) 2.82 (d, J=4.6 Hz, 3H) 2.20-2.34 (m, 1H) 0.77-1.09 (m, 3H) 0.43 (br. s., 1H). LCMS (m/z, ES+)=529 (M+H+).

reactant | 6-(N-(4-(benzyloxy)-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.485 mmol, 0.300 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C33H28ClFN2O5S
reactant | BCl3 DCM | 2.00 mmol, 1M, 2.00 mL | B(Cl)(Cl)Cl.C(Cl)Cl
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 6-(N-(3-Chloro-4-hydroxyphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.110 g, 37% | ClC=1C=C(C=CC1O)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22ClFN2O5S
